US04119729
A modification of the procedure for preparing 1-(isopropylamino)-3-[4-(methylsulfonyl)-m-tolyloxy]-2-propanol employing aqueous sodium hydroxide as the reaction medium follows. Epichlorohydrin (37 g., 0.4 mole) is added portionwise in 5 min. to a solution of 4-(methylsulfonyl)-m-cresol (0.2 mole) and sodium hydroxide (13 g., 0.32 mole) in 250 ml. of water at 30° C. Stirring is continued for 24 hr. and the final pH of the solution is 8-8.5. The reaction mixture extracted with two 250 ml. portions of chloroform, the chloroform extract dried over sodium carbonate, filtered and the filtrate concentrated under reduced pressure provides the crude epichlorohydrin derivative. The epichlorohydrin derivative is taken up in 150 ml. of ethanol and treated with isopropylamine (17 g., 0.286 mole) in 20 ml. of water. After stirring for 10 min., the mixture is refluxed for 4 hr. and distillables removed under reduced pressure. The residue taken up in ethanol and acidified with ethanolic hydrogen chloride affords 1-(ISOPROPYLAMINO)-3-[4-(METHYLSULFONYL)-m-TOLYLOXY]-2-PROPANOL HYDROCHLORIDE.

reactant | 1-(isopropylamino)-3-[4-(methylsulfonyl)-m-tolyloxy]-2-propanol | C(C)(C)NCC(COC=1C=C(C=CC1S(=O)(=O)C)C)O | C14H23NO4S
reactant | Epichlorohydrin | 0.4 mole, 37 g | C(Cl)C1CO1 | C3H5ClO
reactant | 4-(methylsulfonyl)-m-cresol | 0.2 mole | CS(=O)(=O)C=1C(=CC(=CC1)O)C | C8H10O3S
reactant | sodium hydroxide | 0.32 mole, 13 g | [OH-].[Na+]
reactant | isopropylamine | 0.286 mole, 17 g | C(C)(C)N | C3H9N
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-(ISOPROPYLAMINO)-3-[4-(METHYLSULFONYL)-m-TOLYLOXY]-2-PROPANOL HYDROCHLORIDE | Cl.C(C)(C)NCC(COC=1C=C(C=CC1S(=O)(=O)C)C)O | InChI=1S/C14H23NO4S.ClH/c1-10(2)15-8-12(16)9-19-13-7-11(3)5-6-14(13)20(4,17)18;/h5-7,10,12,15-16H,8-9H2,1-4H3;1H
